Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / Pravachol
 
Attending: ___.
 
Chief Complaint:
Chest Pressure
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization (___) - 
Coronary Anatomy
Dominance: Left
* Left Main Coronary Artery
The LMCA is with 20% distal tapering.
* Left Anterior Descending
The LAD is with 40% proximal stenosis followed by mild 
aneurysmal dilatation, with mild diffuse disease beyond. The ___ 
Diagonal is without significant disease.
* Circumflex
There is a 80% stenosis in the Mid Circumflex with appearance of 
plaque rupture and thrombus. The lesion has a TIMI flow of 3 and 
has no noted calcification. An intervention was performed on the 
Mid
Circumflex with a final stenosis of 0%. There were no lesion 
complications.
There is a 40% proximal LCx stenosis. The LPDA was without 
significant disease.
The ___ Marginal branch is without significant disease.
* Right Coronary Artery
The RCA is non-dominant, with no significant disease.

Impressions: Non-ST elevation myocardial infarction due to LCx 
plaque rupture. Successful ___-guided PCI of the LCx with 
drug-eluting stent
Recommendations:
-Aspirin 81 mg daily indefinitely
-Clopidogrel for minimum 12 months
 
History of Present Illness:
___ hx HTN, HL, recent influenza infection ___. He presented 
to ___ with chest pressure, and found to have rising 
troponin without ECG changes. Transferred from ___ for 
further cardiac care.

Patient was in USOH until around ___, when he was ___ with 
the flu. He had the usual flu symptoms, and despite resolution 
of fevers, myalgias, etc, his cough has persisted. On the 
morning of presentation to ___, awoke from sleep with 
substernal chest pressure lasting one hour.

In ___, he had no ischemic ECG changes, old RBBB. His 
chest pressure resolved with SLN and has been pain free since 
that time. Serial Tns were checked: 0.01, 0.412, 1.04. After 
troponin elevation was noted, he was started on IV Heparin 5000 
unit bolus and 1000 unit hr gtt and given 300mg Plavix. Had 
toast and tea at 7:15pm, now NPO. His FSG noted to be 117. 
Originally planned for BIN ___ -> ___ Cath lab transfer, but no 
cath slots available, so transferred ___ to ___. Labs from BIN are 
below, notable for rising Tn. VS on transfer  Afebrile, 63 sinus 
rhythm, 16, 148/83, 98% RA. 

In the ___ ___, 97.6 58 168/105 17 94% RA.
- Labs were unremarkable except for Tn repeat 1.00
- Studies: ECG no ischemia. Patient also was having HA, so NCHCT 
was obtained and has no acute findings, but does show a 
hyperdense mass at the cerebellopontine angle that needs 
nonemergent MRI. 

On arrival to the floor, patient recounts hx above. He reports 
that he did not have coffee today and hasn't yet eaten, and 
thinks that may be cause of his HA.

He denies any fevers, chills, persistent chest discomfort or 
pressure. He continues to have cough since his influenza 
infection, and is prescribed the inhalers below for bronchitis 
(no hx asthma or COPD). No dyspnea. No abd pain, n/v. No focal 
neurologic sxs, blurry vision. No dysuria.

Has Hx of HCV infection, successfully treated with IFN and 
ribavirin in the early ___.

 
Past Medical History:
Hx RBBB on ECG
HTN
HLD
Hypothyroidism
Gout 
Hep C - (successfully treated early ___ with IFN/ribavirin, VL 
nondetectable ___
Low back pain 
s/p cataract surgery
s/p fissurectomy
 
Social History:
___
Family History:
Father - ___ x 2 at ___. Deceased at ___.
Mother - ___. Emphysema.
Older Brother - Multiple cardiac caths and angioplasties.
Older Sister - ___ fibrillation
___ Sister - ___  
 
Physical Exam:
ADMISSION EXAM
==============
VITALS - 98.4 157/90 59 18 95/ra
GENERAL - pleasant, well-appearing, in no apparent distress 
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear
NECK - supple, no LAD, no JVD
CARDIAC - RRR, normal s1s2, nmrg
PULMONARY - CTAB. comfortable on RA. frequent nonproductive 
coughing
ABDOMEN - nabs, soft ntnd
EXTREMITIES - wwp without edema, 2+ distal pulses
SKIN - without apparent rash
NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred
PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant

DISCHARGE EXAM
==============
Vitals- Tm 98.6 Tc 98.6 BP 115/74(115-130/70-82) HR 48 (48-64) 
RR 18 O2Sat 95%RA 
General- Alert, well-appearing man, laying in bed, NAD.
HEENT- Sclera anicteric, EOMI, MMM 
Neck- Supple, No JVP at 45 degrees
Lungs- Non-productive cough, CTAB, no rhonchi or wheezing
CV- Regular rhythm, bradycardic, normal S1/S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended
GU- no foley  
Ext- warm, well perfused, no clubbing, cyanosis or edema, 
non-tender to palpation
Neuro- A&O x 3, moves all extremities spontaneously

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:45PM BLOOD WBC-9.5# RBC-4.93 Hgb-15.1 Hct-43.1 
MCV-87 MCH-30.6 MCHC-35.0 RDW-12.4 RDWSD-39.6 Plt ___
___ 06:45PM BLOOD Neuts-57 Bands-0 ___ Monos-10 Eos-1 
Baso-1 Atyps-3* Metas-2* Myelos-0 AbsNeut-5.42 AbsLymp-2.76 
AbsMono-0.95* AbsEos-0.10 AbsBaso-0.10*
___ 06:45PM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:45PM BLOOD Glucose-98 UreaN-19 Creat-1.1 Na-139 
K-4.7 Cl-106 HCO3-23 AnGap-15
___ 12:20AM BLOOD CK(CPK)-571*
___ 06:45PM BLOOD cTropnT-1.10*
___ 12:20AM BLOOD CK-MB-23* MB Indx-4.0 cTropnT-0.70*
___ 06:15AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.2 Cholest-PND

PERTINENT RESULTS
=================
___ 06:45PM BLOOD cTropnT-1.10*
___ 03:25PM BLOOD CK-MB-4 cTropnT-0.34*
___ 07:18AM BLOOD %HbA1c-6.0* eAG-126*
___ 06:15AM BLOOD Triglyc-150* HDL-48 CHOL/HD-3.6 
LDLcalc-95

IMAGING STUDIES
===============
NCHCT ___, ___ 
FINDINGS:  
No acute intra-axial or extra-axial hemorrhage, edema, shift of 
normally midline structures or evidence of acute major vascular 
territorial infarction. At the right cerebellopontine angle 
there is asymmetric hyperdensity best seen on series 2, image 8 
measuring approximately 1.9 x 1.3 cm, possibly a meningioma or 
acoustic neuroma.  No associated edema.  Ventricles and sulci 
are normal in overall configuration.  Bony structures are 
intact.  Paranasal sinuses are well aerated as are the mastoid 
air cells and middle ear cavities.
IMPRESSION: 
1. No acute hemorrhage. 
2. Apparent hyperdense extra-axial lesion at the right 
cerebellopontine angle which could represent a small meningioma, 
less likely schwannoma. Nonemergent MRI may be performed to 
further assess.

MRI Internal Auditory Canal (___)
FINDINGS:  FLAIR images demonstrate no focal signal 
abnormalities mass effect midline shift or hydrocephalus.  No 
acute infarcts are seen.  A few scattered nonspecific foci of T2 
hyperintensity indicate minimal an early changes of small vessel 
disease.  Postcontrast images through the brain demonstrate no 
evidence of abnormal parenchymal,vascular or meningeal 
enhancement. 
  
Images through the internal auditory canal demonstrates 
symmetric appearance of the seventh eighth nerve complexes.  No 
evidence of abnormal enhancement or mass lesion seen within the 
internal auditory canals, cerebellopontine angles or membranous 
labyrinth.  No other mass lesions are seen within the posterior 
fossa. 
  
IMPRESSION:  
  
Normal MRI of the internal auditory canal.  No evidence of 
cerebellopontine angle mass. 

TTE (___)
The left atrial volume index is normal. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is low normal 
(LVEF = 50%) secondary to hypokinesis of the inferior, 
posterior, and lateral walls, with focal posterobasal akinesis. 
The right ventricular free wall thickness is normal. The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  

EKG
===
___ EKG - Sinus rhythm. Prior inferior wall myocardial 
infarction. Right bundle-branch block. No previous tracing 
available for comparison.  

DISCHARGE LABS
==============
___ 07:30AM BLOOD WBC-7.1 RBC-4.61 Hgb-14.0 Hct-41.2 MCV-89 
MCH-30.4 MCHC-34.0 RDW-12.2 RDWSD-39.2 Plt ___
___ 07:30AM BLOOD Glucose-107* UreaN-24* Creat-1.3* Na-137 
K-4.5 Cl-101 HCO3-24 AnGap-17
___ 07:30AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.___RIEF HOSPITAL COURSE

Patient is a ___ yo man with a PMH of HTN (no treatment), HLD, 
Hep C (s/p IFN/ribavirin, HCV Ab pos, non-detectable VL 
___, and recent influenza infection who presented to ___ 
___ with substernal chest pressure found to have NSTEMI, 
transferred to ___ for cath, now s/p placement of LCX stent. 
In the ___ ___ he also complained of a headache. He received a 
NCHCT which showed a small hyperdensity at the cerebellopontine 
angle. Further evaluation with an MRI demonstrated no 
abnormality and the CT finding was thought to be an imaging 
artifact.

ACTIVE ISSUES

# NSTEMI: He initially presented ___ with substernal chest 
pressure to ___. EKG did not show any actue ischemic 
changes and a RBBB consistent with prior. Troponins were 
elevated and peaked at 1.10 before downtrending. At ___ 
he received ASA 325 mg, Plavix 300 mg, and was placed on a 
heparin drip. He also received sublingual nitro which relieved 
his chest pressure. He was transferred to ___ for cardiac 
catheterization. He was started on metoprolol 12.5 mg BID and 
rosuvastatin 40 mg QD. On ___ he underwent cardiac cath with 
placement of a LCX drug eluting stent. His heparin gtt was 
discontinued post-procedure and he was started on lisinopril 2.5 
mg QD. TTE post-cath (___) was notable for left ventricular 
systolic function being low normal (LVEF = 50%) secondary to 
hypokinesis of the inferior, posterior, and lateral walls, with 
focal posterobasal akinesis. A1C was 6.0 and LDL 96 during 
admission.

# Incidental CT Head Finding: ___ initially showed a 
hyperdense mass at cerebropontine angle, discovered after 
patient experienced headache in the ___. Headache most likely was 
secondary to sublingual nitro and fact patient had not had 
coffee all day. A ___ MRI of the internal auditory canal 
was performed that did not demonstrate an abnormality. The 
intitial CT finding was eventually thought to represent an 
imaging artifact. No further ___ is necessary.

# HTN: Patient is not on any home antihypertensive regimen. Had 
SBPs to 168 in the ___ ___. Blood pressures well controlled 
throughout hospitalization with metoprolol 12.5 mg BID. 
Lisinopril 2.5 mg QD started at discharge.

# Dyslipidemia: Was on ezetimibe at home. Patient with a 
previous reaction (agitation) to atorvastatin. Started on 
rosuvastatin 40 mg QD given NSTEMI. Patient tolerated medication 
well and was discharged home on rosuvastatin.

CHRONIC ISSUES

# HCV infection: Successfully treated in early ___ with IFN 
and ribavirin. VL undetectable in ___. HCV Ab positive 
___.

# Hypothyroidism: Continued home levothyroxine 137 mcg PO QD.

TRANSITIONAL ISSUES
===================
#New Medications/Medication Changes:
-Clopidogrel 75 mg PO QD
-Metoprolol succinate 25 mg PO QD
-Lisinopril 2.5 mg PO QD
-Rosuvastatin 40 mg PO QPM

___:
-You have a ___ appointment with your primary care doctor
-___ have a ___ appointment with a cardiologist, Dr. ___ 
___

#NSTEMI s/p LCx Drug-Eluting Stent:
-Patient on Plavix 75 mg PO QD for at least one year given drug 
eluting stent

#Code Status: Full Code

#Emergency Contact: wife, ___, ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheeze 
2. Ezetimibe 10 mg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Levothyroxine Sodium 137 mcg PO DAILY 
5. promethazine-codeine 6.25-10 mg/5 mL oral QID:PRN 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Levothyroxine Sodium 137 mcg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheeze 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. promethazine-codeine 6.25-10 mg/5 mL oral QID:PRN cough 
6. Lisinopril 2.5 mg PO DAILY 
7. Rosuvastatin Calcium 40 mg PO QPM 
8. Clopidogrel 75 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
NSTEMI

Secondary Diagnoses:
Hypertension
Hyperlipidemia
Hypothyroid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you during your admission to 
the ___. You were transferred 
here for cardiac catheterization after presenting to ___ 
with a heart attack.

When you arrived here at ___ you were on aspirin, 
Plavix, and a blood thinning medication heparin. We started you 
on other medications for your heart, metoprolol, and 
cholesterol, rosuvastatin. You underwent a procedure to look at 
your heart vessels, cardiac catheterization, and received a 
stent to open up one of your vessels. After the procedure we 
stopped the heparin and started you on another heart medication 
lisinopril.

When you leave the hospital you will continue to take aspirin, 
Plavix, metoprolol, lisinopril, rosuvastatin, and your thyroid 
medication.

During your admission you also experienced a headache and 
received a head CT. Initially it looked like this showed a small 
mass. You had a ___ MRI that was normal and did not show 
any mass. You do not need any further imaging or evaluation.

It is very important that you keep all of your ___ 
appointments and that you take all medications as prescribed. If 
you experience any of the danger signs listed below you should 
contact your doctor or go to the Emergency Room immediately.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___